US04234594
2-[1-(3-Trifluoromethylphenyl)-5-pyrazolyl] amino-2-imidazoline hydrochloride
1-Acetyl-2-[1-(3-Trifluoromethylphenyl)-5-pyrazolyl] amino-2-imidazoline (14.5 g.) was treated with HCl in methanol as described in Example II to give 10.69 g. product as the HCl salt, mp 151°-153°.

reactant | 1-Acetyl-2-[1-(3-Trifluoromethylphenyl)-5-pyrazolyl] amino-2-imidazoline | 14.5 g | C(C)(=O)N1C(=NCC1)NC1=CC=NN1C1=CC(=CC=C1)C(F)(F)F | C15H14F3N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-[1-(3-Trifluoromethylphenyl)-5-pyrazolyl] amino-2-imidazoline hydrochloride | Cl.FC(C=1C=C(C=CC1)N1N=CC=C1NC=1NCCN1)(F)F | InChI=1S/C13H12F3N5.ClH/c14-13(15,16)9-2-1-3-10(8-9)21-11(4-5-19-21)20-12-17-6-7-18-12;/h1-5,8H,6-7H2,(H2,17,18,20);1H
